US07723330B2
Step C: Preparation of N-(3-fluoro-4-(3-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide:
A 50 mL round-bottomed flask was charged with tert-butyl 4-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)piperazine-1-carboxylate (56.8 mg, 0.0743 mmol) and CF3COOH (5 mL). The reaction mixture was stirred at 60° C. overnight. The solvent was removed and the residue was purified by silica gel chromatography (DCM/7 M NH3 in MeOH from 50/1 to 10/1, v/v) to afford product (35.3 mg, 87.3%). LRMS (APCI pos): >99% purity, 254 nm, m/e 545 (M+1). 1H NMR (400 MHz, CDCl3) δ 11.83 (s, 1H), 8.41 (d, 1H), 8.24 (m, 2H), 7.90 (dd, 1H), 7.60 (m, 2H), 7.41 (d, 1H), 7.24 (m, 3H), 6.21 (d, 1H), 3.46 (m, 4H), 3.04 (m, 4H).

reactant | tert-butyl 4-(1-(4-methoxybenzyl)-4-(2-fluoro-4-(1-(4-fluorophenyl)-6-oxo-1,6-dihydropyridazine-5-carboxamido)phenoxy)-1H-pyrazolo[3,4-b]pyridin-3-yl)piperazine-1-carboxylate | 0.0743 mmol, 56.8 mg | COC1=CC=C(CN2N=C(C=3C2=NC=CC3OC3=C(C=C(C=C3)NC(=O)C3=CC=NN(C3=O)C3=CC=C(C=C3)F)F)N3CCN(CC3)C(=O)OC(C)(C)C)C=C1 | C40H38F2N8O6
reactant | CF3COOH | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-(3-fluoro-4-(3-(piperazin-1-yl)-1H-pyrazolo[3,4-b]pyridin-4-yloxy)phenyl)-2-(4-fluorophenyl)-3-oxo-2,3-dihydropyridazine-4-carboxamide | 35.3 mg, 87.3% | FC=1C=C(C=CC1OC1=C2C(=NC=C1)NN=C2N2CCNCC2)NC(=O)C=2C(N(N=CC2)C2=CC=C(C=C2)F)=O | C27H22F2N8O3
